US07291616B2
To a suspension of 2-chloro-5-methyl-benzoic acid (3.0 g, 17.6 mmol) in dichloromethane (50 ml) was added a solution of oxalyl chloride in dichloromethane (2 M, 10 ml, 20 mmol) followed by N,N-dimethylformamide (5 drops). After stirring for 1 hour, methanol (20 ml) was added. After stirring for 3 hours, the mixture was concentrated under reduced pressure. The residue was partitioned between ethyl acetate (200 ml) and saturated aqueous potassium carbonate solution (100 ml). The organic layer was concentrated under reduced pressure to provide methyl 2-chloro-5-methyl-benzoate (3.2 g, 100% yield).

reactant | 2-chloro-5-methyl-benzoic acid | 17.6 mmol, 3.0 g | ClC1=C(C(=O)O)C=C(C=C1)C | C8H7ClO2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 mmol, 2 M, 10 ml | ClCCl | CH2Cl2
product | methyl 2-chloro-5-methyl-benzoate | 3.2 g, 100% yield | ClC1=C(C(=O)OC)C=C(C=C1)C | C9H9ClO2
